US06251912B1
3-[4-(3-Bromo-phenylamino)-quinazolin-6-ylamino]-4-methylamino-cyclobut-3-ene-1,2-dione
A mixture of 0.8 g of 3-[4-(3-Bromo-phenylamino)-quinazolin-6-ylamino]-4-ethoxy-cyclobut-3-ene-1,2-dione, 15 mL of 33 % methylamine, 5 mL of water, and 5 mL of ethanol was refluxed for 5 hr. The mixture was cooled to room temperature and the solid was collected and washed with ethanol and ether giving 0.45 g of 3-[4-(3-Bromo-phenylamino)-quinazolin-6-ylamino]-4-methylamino-cyclobut-3-ene-1,2-dione as a yellow powder: mass spectrum (m/e): M+H 426.0.

reactant | 3-[4-(3-Bromo-phenylamino)-quinazolin-6-ylamino]-4-ethoxy-cyclobut-3-ene-1,2-dione | 0.8 g | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC=1C(C(C1OCC)=O)=O | C20H15BrN4O3
reactant | methylamine | 15 mL | CN | CH5N
reactant | water | 5 mL | O | H2O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 3-[4-(3-Bromo-phenylamino)-quinazolin-6-ylamino]-4-methylamino-cyclobut-3-ene-1,2-dione | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC=1C(C(C1NC)=O)=O | C19H14BrN5O2
